US07652049B2
A stirred suspension of sodium hydride (60% in oil, 167 mg, 4.18 mmol) in THF (5 mL) was treated at 0° C. with 5-[3,5-bis(trifluoromethyl)phenyl]-1,3-oxazolidin-2-one (500 mg, 1.67 mmol) dissolved in THF (1 mL), under an atmosphere of N2. The reaction was stirred for 20 min and a solution of 2-(bromomethyl)-1-iodo-4-(trifluoromethyl)benzene (610 mg, 1.67 mmol) in THF (1 mL) was added dropwise. The reaction was stirred at room temperature for 18 h. The reaction was quenched with H2O (1 mL) and partitioned between EtOAc (80 mL) and H2O (25 mL). The aqueous phase was re-extracted with EtOAc (2×20 mL) and the combined organic extracts were washed with brine (30 mL), dried (MgSO4) and concentrated in vacuo to give the crude product. This was purified by flash silica-gel chromatography (0-30% EtOAc in hexanes gradient) to afford 5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]1,3-oxazolidin-2-one. Rf=0.55 (515% EtOAc/hexanes). LCMS 584 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 8.05 (d, J=8.2 Hz, 1H), 7.95 (br s, 1H), 7.85 (br s, 2H), 7.51 (br s, 1H), 7.32 (m, 1H), 5.72 (t, J=8.0 Hz, 1H), 4.74 (d, J=15.5 Hz, 1H), 4.64 (d, J=15.3 Hz), 4.14 (t, J=7.1 Hz, 1H), 3.47 (dd, J=7.1, 1.6 Hz).

reactant | sodium hydride | 4.18 mmol, 167 mg | [H-].[Na+]
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-1,3-oxazolidin-2-one | 1.67 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CNC(O1)=O)(F)F | C11H7F6NO2
reactant | 2-(bromomethyl)-1-iodo-4-(trifluoromethyl)benzene | 1.67 mmol, 610 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)I | C8H5BrF3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)benzyl]1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)C1CN(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)(F)F | C19H11F9INO2
